US07687502B2
[6-(3-Fluoropyridin-2-yloxy)quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine
The compound of Example 155 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2-chloro-3-fluoropyridine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2-chloro-3-fluoropyridine | ClC1=NC=CC=C1F | C5H3ClFN
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(3-Fluoropyridin-2-yloxy)quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine | FC=1C(=NC=CC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C17H13FN6O
